US06274608B1
2-Ethoxy-3-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid
A solution of 2-ethoxy-3-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester (108 mg; 0.24 mmol) in methanol (15 ml) was treated with 1 N NaOH and the reaction mixture was stirred for 16 hours. The reaction mixture was evaporated and 0.1 N HCl (20 ml) and ethyl acetate (50 ml) was added. The organic phase was separated and the water phase was further extracted with ethyl acetate (50 ml). The combined organic phases were dried and evaporated to give crude product. Purification on column chromatography using methylene chloride:methanol (15:1) as eluent gave the title compound in 105 mg (100%) yield. Compound 3.

reactant | 2-ethoxy-3-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester | 0.24 mmol, 108 mg | COC(C(CC1=CC=C(C=C1)OC(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)OCC)=O | C29H40O4
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-Ethoxy-3-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OC(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C28H38O4
